US08835428B2
(S)-2-({3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-5-phenyl-isoxazole-4-carbonyl}-amino)-3-methoxy-propionic acid methyl ester
The title compound was prepared from 3-[4-(6-fluoro-benzothiazol-2-ylamino)-phenyl]-5-phenyl-isoxazole-4-carboxylic acid and (S)-2-amino-3-methoxy-propionic acid methyl ester hydrochloride as set forth in Example 5 and was obtained in 69% yield. Mass (ES+): 547 (M++1); IR (KBr): 3342, 3270, 1718, 1648, 1605, 1542; 1H NMR (DMSO-d6) δ: 3.23 (s, 3H), 3.61-3.68 (br, 5H), 4.79 (m, 1H), 7.16 (m, 1H), 7.53-7.58 (m, 4H), 7.80-7.87 (m, 7H), 9.53 (d, 1H), 10.73 (s, 1H, NH).

reactant | 3-[4-(6-fluoro-benzothiazol-2-ylamino)-phenyl]-5-phenyl-isoxazole-4-carboxylic acid | FC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=NOC(=C2C(=O)O)C2=CC=CC=C2)C=C1 | C23H14FN3O3S
reactant | (S)-2-amino-3-methoxy-propionic acid methyl ester hydrochloride | Cl.COC([C@H](COC)N)=O
reactant | KBr | [K+].[Br-]
product | (S)-2-({3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-5-phenyl-isoxazole-4-carbonyl}-amino)-3-methoxy-propionic acid methyl ester | 69% yield | COC([C@H](COC)NC(=O)C=1C(=NOC1C1=CC=CC=C1)C1=CC=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)F)=O | C28H23FN4O5S
